US07642264B2
2-Chloro-4-[6-methyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-pyrimidine
The title compound was prepared from 2-iodo-6-methyl-4-(4-trifluoromethyl-phenyl)pyridine (example A.31) (10.89 g, 30 mmol) and commercially available 2,4-dichlorpyrimidine (4.47 g, 30 mmol) according to the general procedure IVc protocol b. Obtained as an off-white solid (7.2 g, 68%). MS (ISP) 350.2 [(M+H)+] and 352 [(M+2+H)+].

reactant | 2-iodo-6-methyl-4-(4-trifluoromethyl-phenyl)pyridine | 30 mmol, 10.89 g | IC1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C | C13H9F3IN
reactant | 2,4-dichlorpyrimidine | 30 mmol, 4.47 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
product | 2-Chloro-4-[6-methyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-pyrimidine | ClC1=NC=CC(=N1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C | C17H11ClF3N3
